// Path statistics: a: 14; b: 7; c: 7; d: 7; e: 7; f: 7; 
.subckt NSP_35_DepthLimited GND VCC Y a b c d e f 
.model nmos NMOS level=1 VTO=0.4 KP=120u
.model pmos PMOS level=1 VTO=-0.4 KP=40u

M0 Y a pN2 VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M1 pN1 a VCC VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M2 pN2 c pN1 VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M3 pN2 d VCC VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M4 Y b pN1 VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M5 pN2 f VCC VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M6 Y e pN2 VCC PMOS W=1.5u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M7 nN1 a GND GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M8 Y a nN4 GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M9 nN3 c nN4 GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M10 nN4 d nN2 GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M11 nN3 e nN1 GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M12 nN2 f GND GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
M13 Y b nN3 GND NMOS W=1u L=0.05u 
+ ad=0p pd=0u as=0p ps=0u
.end
